US04474809
4-[(4-Methoxyphenyl)methoxy]-α-oxo-benzeneacetaldehyde hydrate
A 10.0 g portion of 1-[4-[(4-methoxyphenyl)-methoxy]phenyl]ethanone was dissolved in 50 ml of hot p-dioxane. A 2.0 ml portion of water and 4.4 g of selenium dioxide were added and the mixture was stirred at reflux for 67 hours, then cooled and filtered through diatomaceous earth. The filtrate was poured into 300 ml of water and the solid collected. This solid was extracted with eight 100 ml portions of ethyl acetate. The extracts were combined, washed with water, dried and evaporated. The residue was dissolved in 100 ml of boiling toluene, treated with charcoal and filtered through diatomaceous earth. The filtrate was treated with 200 ml. of hexane, giving the desired product as a pale yellow solid, m.p. 127°-138° C.

reactant | 1-[4-[(4-methoxyphenyl)-methoxy]phenyl]ethanone | COC1=CC=C(C=C1)COC1=CC=C(C=C1)C(C)=O | C16H16O3
reactant | water | O | H2O
reactant | selenium dioxide | 4.4 g | [Se](=O)=O | O2Se
solvent | p-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-[(4-Methoxyphenyl)methoxy]-α-oxo-benzeneacetaldehyde hydrate | O.COC1=CC=C(C=C1)COC1=CC=C(C=C1)C(C=O)=O | InChI=1S/C16H14O4.H2O/c1-19-14-6-2-12(3-7-14)11-20-15-8-4-13(5-9-15)16(18)10-17;/h2-10H,11H2,1H3;1H2
